US08247576B2
60D. Methyl-{2-phenyl-2-[6-(1H-pyrazol-4-yl)-pyridin-3-yl]-ethyl}-amine
To a solution of {2-(4-Chloro-phenyl)-2-[6-(3-methyl-1-trityl-1H-pyrazol-4-yl)-pyridin-3-yl]-vinyl}-methyl-(1-phenyl-ethyl)-amine in ethanol was added palladium, 10 wt. % on activated carbon and the reaction mixture was subjected to a hydrogen atmosphere for 17 hours. The mixture was filtered through Celite®, the mother liquor was concentrated, the residue was purified by column chromatography (SiO2), eluting with dichloromethane: methanol: acetic acid:water (240:20:3:2) to dichloromethane: methanol: acetic acid:water (90:18:3:2) to afford the title compound. LC/MS: (PS-A2) Rt 1.59 [M+H]+ 293.18. 1H NMR (Me-d3-OD) δ 2.35 (3H, s), 2.40 (3H, s), 3.25 (2H, s), 4.15-4.20 (1H, t), 7.10-7.18 (1H, m), 7.25 (4H, m), 7.45 (1H, d), 7.67 (1H, dd), 7.80 (1H, s), 8.38 (1H, s).

reactant | {2-(4-Chloro-phenyl)-2-[6-(3-methyl-1-trityl-1H-pyrazol-4-yl)-pyridin-3-yl]-vinyl}-methyl-(1-phenyl-ethyl)-amine | ClC1=CC=C(C=C1)C(=CN(C(C)C1=CC=CC=C1)C)C=1C=NC(=CC1)C=1C(=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C45H39ClN4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | Methyl-{2-phenyl-2-[6-(1H-pyrazol-4-yl)-pyridin-3-yl]-ethyl}-amine | CNCC(C=1C=NC(=CC1)C=1C=NNC1)C1=CC=CC=C1 | C17H18N4
